US04108896
A solution of 18.2 g of 1,5-bis(bromoacetyl)anthracene, (0.042 mole) and 12.5 g of diethylamine (0.17 mole) in 1.6 liters of benzene is refluxed for 2.5 hours. On cooling, excess saturated ethereal hydrobromic acid is added to precipitate the product as the dihydrobromide hemihydrate. Recrystallization of this salt from 200 ml of methanol yields 12 g of 1,5-bis(diethylaminoacetyl)anthracene dihydrobromide hemihydrate, m.p. 285°-6° C.

reactant | 1,5-bis(bromoacetyl)anthracene | 0.042 mole, 18.2 g | BrCC(=O)C1=CC=CC2=CC3=C(C=CC=C3C=C12)C(CBr)=O | C18H12Br2O2
reactant | diethylamine | 0.17 mole, 12.5 g | C(C)NCC | C4H11N
reactant | hydrobromic acid | Br | BrH
solvent | benzene | 1.6 liters | C1=CC=CC=C1 | C6H6
product | 1,5-bis(diethylaminoacetyl)anthracene dihydrobromide hemihydrate | 12 g | O.Br.Br.C(C)N(CC)CC(=O)C1=CC=CC2=CC3=C(C=CC=C3C=C12)C(CN(CC)CC)=O.C(C)N(CC)CC(=O)C1=CC=CC2=CC3=C(C=CC=C3C=C12)C(CN(CC)CC)=O.Br.Br | InChI=1S/2C26H32N2O2.4BrH.H2O/c2*1-5-27(6-2)17-25(29)21-13-9-11-19-16-24-20(15-23(19)21)12-10-14-22(24)26(30)18-28(7-3)8-4;;;;;/h2*9-16H,5-8,17-18H2,1-4H3;4*1H;1H2
